US06017919
4-Methoxy-3-pentyloxybenzoic acid (250 mg, 1.05 mmol, 1 eq) was dissolved in thionyl chloride (1.05 ml) in a stream of nitrogen, and the solution was stirred at 70° C. for 5 hours. The mixture was cooled to room temperature, and excess thionyl chloride was evaporated under reduced pressure. The residue was added to a solution of morpholine (274 mg, 3.15 mol, 3.0 eq) in DMF (3 ml) under ice-cooling. The mixture was stirred under ice-cooling for 30 minutes, and then further at room temperature for 1.5 hours. Water (30 ml) was added to this reaction mixture and the mixture was extracted twice with ethyl acetate (50 ml). The organic layers were combined, washed with saturated brine (50 ml) and dried over anhydrous sodium sulfate. The drying agent was fltered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by column chromatography on silica gel (n-hexane/ethyl acetate=2/1) to give (4-methoxy-3-pentyloxyphenyl)morpholin-4-yl-methanone (219 mg, 67.9%) as an oil

reactant | 4-Methoxy-3-pentyloxybenzoic acid | 1.05 mmol, 250 mg, 1 eq | COC1=C(C=C(C(=O)O)C=C1)OCCCCC | C13H18O4
reactant | morpholine | 3.15 mol, 274 mg, 3.0 eq | N1CCOCC1 | C4H9NO
reactant | Water | 30 ml | O | H2O
solvent | thionyl chloride | 1.05 ml | S(=O)(Cl)Cl | Cl2OS
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | (4-methoxy-3-pentyloxyphenyl)morpholin-4-yl-methanone | 219 mg, 67.9% | COC1=C(C=C(C=C1)C(=O)N1CCOCC1)OCCCCC | C17H25NO4
